US07666888B2
2-((3R)-1-{[3-(3-chloro-4-methoxyphenyl)isoxazol-4-yl]carbonyl}piperidin-3-yl)propan-2-ol
A solution of 3-(3-chloro-4-methoxyphenyl)isoxazole-4-carboxylic acid (10 mg, 0.04 mmol), N-ethyl-N-isopropylpropan-2-amine (14 μL, 0.08 mmol, 2 equ.) and TBTU (15 mg, 0.046 mmol, 1.2 equ.) in DMF (0.3 mL) was added to 2-[(3R)-piperidin-3-yl]propan-2-ol hydrochloride (7 mg, 0.04 mmol). After 1 h at rt the crude product was purified by RP-HPLC, evaporated and dried in vacuum to yield the title compound (11 mg). MS (ESI, pos. ion) m/z 379 (M+1); HRMS, calcd for C19H23ClN2O4: 378.1346, found 378.1340.

reactant | 3-(3-chloro-4-methoxyphenyl)isoxazole-4-carboxylic acid | 0.04 mmol, 10 mg | ClC=1C=C(C=CC1OC)C1=NOC=C1C(=O)O | C11H8ClNO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.08 mmol, 14 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.046 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-[(3R)-piperidin-3-yl]propan-2-ol hydrochloride | 0.04 mmol, 7 mg | Cl.N1C[C@@H](CCC1)C(C)(C)O
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 2-((3R)-1-{[3-(3-chloro-4-methoxyphenyl)isoxazol-4-yl]carbonyl}piperidin-3-yl)propan-2-ol | 11 mg | ClC=1C=C(C=CC1OC)C1=NOC=C1C(=O)N1C[C@@H](CCC1)C(C)(C)O | C19H23ClN2O4
